US05556878
A 100 mg (0.23 mM) quantity the less polar isomer of (4S,5R)-N-(t-butylamino-carbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester (Preparation 57, 5Ka) is stirred at room temperature under nitrogen in 3 mL MeOH. To this is added 0.1 mL water and 43 mg (0.31 mM) potassium carbonate. After 1 hour, TLC shows no starting material left. Store in freezer overnight. The next morning the solvent is evaporated to give (4S, 5R)-N-(t-butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt (6Ka).

reactant | (4S,5R)-N-(t-butylamino-carbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](N(C(O1)C1=C(C=C(C=C1)OC)OC)C(=O)NC(C)(C)C)C1=CC=CC=C1 | C24H30N2O6
reactant | water | 0.1 mL | O | H2O
reactant | potassium carbonate | 0.31 mM, 43 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 3 mL | CO | CH4O
product | (4S, 5R)-N-(t-butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt | [K+].C(C)(C)(C)NC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)[O-])C1=C(C=C(C=C1)OC)OC | InChI=1S/C23H28N2O6.K/c1-23(2,3)24-22(28)25-18(14-9-7-6-8-10-14)19(21(26)27)31-20(25)16-12-11-15(29-4)13-17(16)30-5;/h6-13,18-20H,1-5H3,(H,24,28)(H,26,27);/q;+1/p-1/t18-,19+,20?;/m0./s1
